US08685969B2
7. 7-Bromo-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 4-(3-amino-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxamide (0.243 g, 0.615 mmol), 1H-benzo[d][1,3]oxazine-2,4-dione (0.251 g, 1.537 mmol), tris(nitrooxy)lanthanum, 6H2O (0.080 g, 0.184 mmol), and trimethoxymethane (2.020 mL, 18.44 mmol) in tetrahydrofuran (2 mL) was heated at 90° C. for 16 hr. The mixture was diluted with ethyl acetate (120 mL), washed with water (2×30 mL) and brine (30 mL), and dried over anhydrous MgSO4. The desired product (0.198 g, 0.378 mmol, 61.4% yield) was isolated as a yellow solid by ISCO (40 g silica gel, solid loading, 40-80% ethyl acetate/hexane).

reactant | 4-(3-amino-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxamide | 0.615 mmol, 0.243 g | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)N)C | C19H15BrN4O
reactant | 1H-benzo[d][1,3]oxazine-2,4-dione | 1.537 mmol, 0.251 g | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | tris(nitrooxy)lanthanum | [N+](=O)([O-])O[La](O[N+](=O)[O-])O[N+](=O)[O-]
reactant | trimethoxymethane | 18.44 mmol, 2.020 mL | COC(OC)OC | C4H10O3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 7-Bromo-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.378 mmol, 0.198 g, 61.4% yield | BrC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C27H18BrN5O2
